US04980363
5.0 g of alpha-(2-furyl)-alpha-aminoacetonitrile hydrochloride was dehydrochlorinated with sodium hydroxide in ethyl acetate by the same method as in the above Synthesis Example 6. Pyridine (2.5 g) was added, and furthermore, an ethyl acetate solution of 4.0 g of 3-methylisothiazole-5-carboxylic acid chloride was added dropwise After the addition, the mixture was stirred for 1 hour. The reaction mixture was washed with water, dilute hydrochloric acid and a dilute aqueous solution of sodium bicarbonate. Sodium sulfate, and active carbon were added to dehydrate and decolorize the reaction mixture. The solvent was removed under reduced pressure, and the residue was washed with ethyl ether to give 4.5 g (yield 74%) of the desired N-(alpha-cyanofurfuryl)-3-methylisothiazole-5-carboxylic acid amide.

reactant | alpha-(2-furyl)-alpha-aminoacetonitrile hydrochloride | 5.0 g | Cl.O1C(=CC=C1)C(C#N)N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Pyridine | 2.5 g | N1=CC=CC=C1 | C5H5N
reactant | 3-methylisothiazole-5-carboxylic acid chloride | 4.0 g | CC1=NSC(=C1)C(=O)Cl | C5H4ClNOS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(alpha-cyanofurfuryl)-3-methylisothiazole-5-carboxylic acid amide | 4.5 g, yield 74% | C(#N)C(C1=CC=CO1)NC(=O)C1=CC(=NS1)C | C11H9N3O2S
